US05312617
(i) Synthesis of 3-Octadecylamino-1,2-Dihydroxy-Propane (ODP)
Octadecylamine (18 g) was dissolved in 200 ml methanol and heated to 60° C. Glycidol (4.95 g) was added dropwise under constant stirring over one and half hours. The reaction mixture was kept under reflux for one additional hour, and then cooled to room temperature, and evaporated to dryness, resulting in 22 g white solid material. This was then recrystallized from hexane, to yield ODP, mp 81°-83° C.

reactant | Octadecylamine | 18 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | Glycidol | 4.95 g | C1C(O1)CO | C3H6O2
solvent | methanol | 200 ml | CO | CH4O
product | 3-Octadecylamino-1,2-Dihydroxy-Propane | 22 g | C(CCCCCCCCCCCCCCCCC)NCC(CO)O | C21H45NO2
